US06743852B2
Benzoxazine 13.
A 500 mL three-neck round-bottom flask with a stir-bar was charged with tert-butylamine (14.6 g, 200 mmole), paraformaldehyde (15.0 g, 500 mmole), siloxane-bridged-bisphenol (26.8 g, 0.1 mol, prepared by the procedure described in Example 10), and toluene (200 mL) were placed into a 500 mL. The flask was connected to a Dean-Stark trap and condenser and the reaction mixture was heated to reflux for 4.0 hours while stirring. A total of 7.2 ml (400 mmol) of water was collected. The reaction mixture was allowed to cool to room temperature and passed through a thin layer of silica gel. The toluene was removed by rotary evaporation and the residue was sparged with nitrogen gas for five hours at 60° C. The final product was a fairly mobile, clear, red liquid. The yield was 78% of theory.

reactant | tert-butylamine | 200 mmole, 14.6 g | C(C)(C)(C)N | C4H11N
reactant | paraformaldehyde | 500 mmole, 15.0 g | C=O | CH2O
reactant | water | 400 mmol, 7.2 ml | O | H2O
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Benzoxazine | yield was 78% | O1NC=CC2=C1C=CC=C2 | C8H7NO
